US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
To a solution of N-{3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (1.03 g, 2.71 mmol) and triethylamine (563 μL, 4.07 mmol) in tetrahydrofuran (15 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (295 μL, 3.25 mmol), and the mixture was stirred at room temperature for 2 hr. Cyclopropanecarbonyl chloride (500 μL, 5.51 mmol) was further added thereto, and the mixture was stirred for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, sodium carbonate (750 mg), methanol (15 mL) and water (100 μL) were added to the residue, and the mixture was stirred at 70° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate=60/40→0/100) and recrystallized from ethanol-ethyl acetate-hexane to give the title compound (675 mg, 56%) as a white solid.

reactant | N-{3-[(2-amino[1,3]thiazolo[5,4-b]pyridin-5-yl)oxy]phenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 2.71 mmol, 1.03 g | NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C18H16N6O2S
reactant | triethylamine | 4.07 mmol, 563 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 3.25 mmol, 295 μL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Cyclopropanecarbonyl chloride | 5.51 mmol, 500 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,3]thiazolo[5,4-b]pyridin-5-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 675 mg, 56% | C1(CC1)C(=O)NC=1SC2=NC(=CC=C2N1)OC=1C=C(C=CC1)NC(=O)C1=CC(=NN1C)C | C22H20N6O3S
